US06329381B1
6-Amino-9-benzyl-2-(3-hydroxypropoxy)-8-hydroxypurine
6-Amino-9-benzyl-2-(3-hydroxypropoxy)-8-methoxypurine (83 mg, 0.25 mmol) in concentrated hydrochloric acid (5 ml) was stirred at room temperature for 4 hours. The reaction mixture was neutralized with 28% aqueous ammonia and the resulting crystals were filtered and washed with water to give the subject compound (40 mg, yield 51%).

reactant | 6-Amino-9-benzyl-2-(3-hydroxypropoxy)-8-methoxypurine | 0.25 mmol, 83 mg | NC1=C2N=C(N(C2=NC(=N1)OCCCO)CC1=CC=CC=C1)OC | C16H19N5O3
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 6-Amino-9-benzyl-2-(3-hydroxypropoxy)-8-hydroxypurine | 40 mg, yield 51% | NC1=C2N=C(N(C2=NC(=N1)OCCCO)CC1=CC=CC=C1)O | C15H17N5O3
